US06835745B2
2-[3-Bromo-5-(4-methoxyphenyl)-4-methylthien-2-yl]-1,3-dioxolane
2-(3-Bromo-5-iodo-4-methylthien-2-yl)-1,3-dioxolane (12.4 g, 33.1 mmol), 4-methoxyphenylboronic acid (5.5 g, 36 mmol), K2CO3 (15 g, 110 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium [II] (1.3 g, 1.6 mmol) were combined in 20% aqueous dimethoxyethane (130 mL) and heated at 75° C. After 3 h, the cooled mixture was filtered through Celite and washed with ethyl acetate (350 mL). The filtrate was washed with 1 N aqueous NaOH and brine (350 mL each), dried (K2CO3) and concentrated in vacuo to give the crude product (13.1 g) as a dark solid which was pre-adsorbed on silica gel (40 g). Flash chromatography (600 g silica, gradient 2.5%-5% ethyl acetate-hexane) gave the title compound (9.5 g, 81%, m.p. 103-04° C.) as a white crystalline solid.

reactant | 2-(3-Bromo-5-iodo-4-methylthien-2-yl)-1,3-dioxolane | 33.1 mmol, 12.4 g | BrC1=C(SC(=C1C)I)C1OCCO1 | C8H8BrIO2S
reactant | 4-methoxyphenylboronic acid | 36 mmol, 5.5 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 110 mmol, 15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethoxyethane | 130 mL | C(OC)COC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 1.6 mmol, 1.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[3-Bromo-5-(4-methoxyphenyl)-4-methylthien-2-yl]-1,3-dioxolane | 9.5 g, 81% | BrC1=C(SC(=C1C)C1=CC=C(C=C1)OC)C1OCCO1 | C15H15BrO3S
